US05556836
Fmoc-Arg(Pmc)-Pro-Gly-NH2
(See SEQUENCE ID NO: 10) 540 mg (2.0 mmol) of Boc-Pro-Gly-NH2 are dissolved in 5 ml abs. THF and mixed while stirring with 3 ml HCl/diethyl ether (abs. diethyl ether is for this saturated with hydrogen chloride at 0° C.). After 0.5 hours the solvent is removed under vacuum and co-evaporated three times with 5 ml toluene on each occasion. 110 mg (2.0 mmol) NaOMe are added to 5 ml abs. THF and after 5 min 5 ml DMF, 300 mg (2.0 mmol) HOBT and 1.32 g Fmoc-Arg(Pmc)-OH. Cooling to -10° C. takes place, 600 mg (3 mmol) EDCI are added and a pH of 7.0 is set with 0.33 ml NMM. After 15 hours of stirring the solvent is removed under vacuum, the resulting syrup absorbed in 150 ml ethyl acetate and the organic phase washed three times with 10 ml 0.5 N HCl, 10% NaHCO3 solution and H2O respectively. The organic phase is dried with MgSO4, the solvent distilled off under vacuum and the product precipitated from hexane. 1.52 g (93%) of thin-layer chromatographically identical Fmoc-Arg(Pmc)-Pro-Gly-NH2 are obtained as a colourless powder.

reactant | Boc-Pro-Gly-NH2 | 2.0 mmol, 540 mg | N1([C@H](C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C12H21N3O4
reactant | HCl diethyl ether | 3 ml | Cl.C(C)OCC
reactant | hydrogen chloride | Cl | ClH
reactant | NaOMe | 2.0 mmol, 110 mg | C[O-].[Na+]
reactant | HOBT | 2.0 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Fmoc-Arg(Pmc)-OH | 1.32 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C35H42N4O7S
reactant | EDCI | 3 mmol, 600 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 0.33 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Fmoc-Arg(Pmc)-Pro-Gly-NH2 | 1.52 g, 93% | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C42H53N7O8S
